US06924294B2
A. Ethyl (3S, 4aR, 6S, 8aR) 6-(2-ethoxycarbonyl-4-fluoro-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate
Following the procedures from Example 1A, and using ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate (537 mg, 1.9 mmol), 2-amino-5-fluoro-benzoic acid ethyl ester (183 mg, 1.0 mmol), glacial acetic acid (0.36 mL, 6.0 mmol), and sodium triacethoxyborohydride (590 mg, 2.8 mmol), flash chromatography (silica gel, hexane-ethyl acetate 3:1) afforded 95 mg (22% yield) of the title compound.

reactant | ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate | 1.9 mmol, 537 mg | O=C1CC2CC(N(CC2CC1)C(=O)OC)C(=O)OCC | C14H21NO5
reactant | 2-amino-5-fluoro-benzoic acid ethyl ester | 1.0 mmol, 183 mg | C(C)OC(C1=C(C=CC(=C1)F)N)=O | C9H10FNO2
reactant | acetic acid | 6.0 mmol, 0.36 mL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Ethyl (3S, 4aR, 6S, 8aR) 6-(2-ethoxycarbonyl-4-fluoro-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 95 mg, 22% yield | C(C)OC(=O)C1=C(C=CC(=C1)F)N[C@@H]1C[C@@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)OCC | C23H31FN2O6
